US08912188B2
To a solution of methyl 2-(5-fluoro-1-benzofuran-2-yl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylate (150 mg, 0.38 mmol) in methanol (50 mL) was added sodium hydroxide (150 mg, 3.75 mmol) and water (2 mL). After stirring overnight at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (10 mL), adjusted to pH 6 with HCl (3N) and filtered to give 2-(5-fluoro-1-benzofuran-2-yl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a light yellow solid (36.5 mg, 25%).

reactant | methyl 2-(5-fluoro-1-benzofuran-2-yl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.38 mmol, 150 mg | FC=1C=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N2CCCC2)C(=O)OC)C1 | C22H18FN3O3
reactant | sodium hydroxide | 3.75 mmol, 150 mg | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | 2-(5-fluoro-1-benzofuran-2-yl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 36.5 mg, 25% | FC=1C=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N2CCCC2)C(=O)O)C1 | C21H16FN3O3
